US08859768B2
To a solution of ethyl 3-furoate (50.0 g, 360 mmol) in chloroform (380 mL) was added bromine (56.0 g, 360 mmol) in chloroform. The reaction mixture was allowed to stir at rt overnight and then poured into 10% aqueous Na2CO3. The mixture was extracted with DCM. The organic solutions were combined and washed with water until pH=7. The organic solution was concentrated and then distilled to give ethyl 5-bromo-3-furoate (42 g, 40%).

reactant | ethyl 3-furoate | 360 mmol, 50.0 g | O1C=C(C=C1)C(=O)OCC | C7H8O3
reactant | bromine | 360 mmol, 56.0 g | BrBr | Br2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 380 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-bromo-3-furoate | 42 g, 40% | BrC1=CC(=CO1)C(=O)OCC | C7H7BrO3
